US08012966B2
A stirred solution of 5-amino-1,3-dihydro-indol-2-one (3.5 g, 23.6 mmol, prepared according to U.S. Pat. No. 6,114,371) in 20 ml of tetrahydrofuran was added with triethylamine (1.3 ml, 9 mmol). The solution was cooled down to −30° C. in an acetone-dry ice bath and added with acetyl chloride (1.3 ml, 9 mmol) dropwise. Upon the completion of the addition, the resulting mixture was stirred for 20 minutes at room temperature and added with ethyl acetate (20 ml) until precipitate was formed. The solid was filtered, washed with water (50 ml×3) and dried in vacuo to give N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (4 g, 88.9%) as a white solid.

reactant | 5-amino-1,3-dihydro-indol-2-one | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | triethylamine | 9 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 9 mmol, 1.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 4 g, 88.9% | O=C1NC2=CC=C(C=C2C1)NC(C)=O | C10H10N2O2
